US08198269B2
(4) Synthesis of (3aR,5R)-5-benzyloxymethyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole
((R)-1-Benzyloxymethyl-3-butenyloxy)acetaldehyde oxime (13.7 g) was dissolved in dichloromethane (164 ml). A 5% sodium hypochlorite solution (164 ml) was added dropwise in an ice bath, and the mixture was stirred at the same temperature for two hours. The reaction solution was diluted with water, and the aqueous layer was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (12.2 g).

reactant | ((R)-1-Benzyloxymethyl-3-butenyloxy)acetaldehyde oxime | 13.7 g | C(C1=CC=CC=C1)OC[C@@H](CC=C)OCC=NO | C14H19NO3
reactant | sodium hypochlorite | 164 ml | Cl[O-].[Na+]
solvent | dichloromethane | 164 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3aR,5R)-5-benzyloxymethyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole | 12.2 g | C(C1=CC=CC=C1)OC[C@H]1C[C@@H]2C(=NOC2)CO1 | C14H17NO3
